US08729068B2
A mixture of 200 mg of methyl 4-{2-[4-({[2-({3-[(4-ethoxy-4-oxobutyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate, 0.059 mL of ethyl iodide, 113 mg of potassium carbonate, and 2.0 mL of DMF was stirred at 60° C. overnight. To the reaction mixture was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 137 mg of methyl 4-{2-[4-({[2-({3-[(4-ethoxy-4-oxobutyl)(ethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate as a yellow solid.

reactant | methyl 4-{2-[4-({[2-({3-[(4-ethoxy-4-oxobutyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 200 mg | C(C)OC(CCCNS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)=O | C38H41N3O8S2
reactant | ethyl iodide | 0.059 mL | C(C)I | C2H5I
reactant | potassium carbonate | 113 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | methyl 4-{2-[4-({[2-({3-[(4-ethoxy-4-oxobutyl)(ethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 137 mg | C(C)OC(CCCN(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)CC)=O | C40H45N3O8S2
